US08710091B2
4.1) 1-(5-iodopentyl)-5,5-dimethyl-3-[4-nitro-3-(trifluoromethyl)phenyl]imidazolidine-2,4-dione
NaH (to 60%) (65 mg, 1.6 mmole) is added under argon to a solution of 5,5-dimethyl-3-[4-nitro-3-(trifluoromethyl)phenyl]-imidazolidine-2,4-dione (500 mg, 1.6 mmole) in anhydrous DMF (20 ml). A gaseous release accompanies the change of colour of the reaction medium which becomes orange. The stirring is maintained for 1 hour at 23° C. before adding, without dilution, the 1,5-diiodopentane (350 μl, 2.4 mmoles). After reaction for 15 hours, the reaction medium is poured into a saturated aqueous solution of NH4Cl (25 ml) and extracted with AcOEt (2×25 ml). The organic phases are combined and washed successively with water (25 ml) and salt water (25 ml). After drying over Na2SO4, the organic solution is filtered and concentrated under vacuum. The evaporation residue is purified on a silica column (eluent: Heptane/AcOEt:7/3 to 6/4). The expected compound is obtained in the form of a colourless oil with a yield of 47% (380 mg).

reactant | NaH | 1.6 mmole, 65 mg | [H-].[Na+]
reactant | 5,5-dimethyl-3-[4-nitro-3-(trifluoromethyl)phenyl]-imidazolidine-2,4-dione | 1.6 mmole, 500 mg | CC1(C(N(C(N1)=O)C1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F)=O)C | C12H10F3N3O4
reactant | 1,5-diiodopentane | 2.4 mmoles, 350 μl | ICCCCCI | C5H10I2
reactant | NH4Cl | 25 ml | [NH4+].[Cl-]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-(5-iodopentyl)-5,5-dimethyl-3-[4-nitro-3-(trifluoromethyl)phenyl]imidazolidine-2,4-dione | yield of 47% | ICCCCCN1C(N(C(C1(C)C)=O)C1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F)=O | C17H19F3IN3O4
